US06310056B1
To a solution of 491 mg of 4-nitrobenzyl (1R,3R,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-oxo-1-carbapenam-3-carboxylate in 12 ml of dry acetonitrile was added dropwise 0.59 ml of N,N-diisopropylethylamine followed by 0.227 ml of anhydrous trifluoromethanesulfonic acid under the atmosphere of argon at −15° C. After the reaction mixture was stirred at the same temperature for 30 minutes, it was diluted with 40 ml of ethyl acetate and washed sequentially with semi-saturated aqueous saline, a mixed solvent of semi-saturated aqueous saline and 1N aqueous hydrochloric acid (pH 1.1), a mixed solvent of semi-saturated aqueous saline and saturated aqueous sodium hydrogen carbonate(pH 8.9), and semi-saturated aqueous saline. The organic layer was dried over anhydrous magnesium sulfate, filtered, and the solvent was removed under reduced pressure. The residue thus obtained was dissolved in 4 ml of dry N-methylpyrrolidinone, mixed with 37 mg of tri-2-furylphosphine, 370 mg of zinc chloride, 37 mg of tris(dibenzylideneacetone)dipalladium (0), and a solution of 765 mg of 3-(tri-n-butylstannyl)imidazo[5,1-b]thiazole in 2 ml of dry N-methylpyrrolidinone, and the mixture was stirred under the atmosphere of argon at 50° C. for 40 minutes. The reaction mixture was diluted with 200 ml of ethyl acetate and 200 ml of water, and the organic layer was separated. The organic layer was diluted with 100 ml semi-saturated aqueous sodium hydrogen carbonate and stirred for 30 minutes to remove insolubles by filtration. The organic layer of the filtrate was separated, washed three times with 200 ml of semi-saturated aqueous saline, dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue thus obtained was purified by column chromatography on silica gel (chloroform:methanol=30:1) to give 225 mg of 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-3-yl)-1-methyl-1-carbapen-2-em-3-carboxylate.

reactant | 4-nitrobenzyl (1R,3R,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-oxo-1-carbapenam-3-carboxylate | 491 mg | O[C@H](C)[C@@H]1[C@@H]2N([C@H](C([C@@H]2C)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C17H18N2O7
reactant | N,N-diisopropylethylamine | 0.59 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoromethanesulfonic acid | 0.227 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | tri-2-furylphosphine | 37 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | 3-(tri-n-butylstannyl)imidazo[5,1-b]thiazole | 765 mg | C(CCC)[Sn](C=1N2C(SC1)=CN=C2)(CCCC)CCCC
solvent | acetonitrile | 12 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | N-methylpyrrolidinone | 4 ml | CN1C(CCC1)=O | C5H9NO
solvent | N-methylpyrrolidinone | 2 ml | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 200 ml | O | H2O
catalyst | zinc chloride | 370 mg | [Cl-].[Zn+2].[Cl-]
catalyst | tris(dibenzylideneacetone)dipalladium | 37 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-3-yl)-1-methyl-1-carbapen-2-em-3-carboxylate | 225 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C=2N3C(SC2)=CN=C3)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C22H20N4O6S
